US06207678B1
Ethyl 2-(1-benzyl-4-(2-naphthyl)piperidin-4-yl)ethanoate (5.8 g) (see Preparation 4) was dissolved in anhydrous diethyl ether (100 ml), cooled in an ice-bath and lithium aluminium hydride (0.57 g) added, portionwise. The mixture was stirred at room temperature for 30 minutes, water (0.8 ml) was then carefully added followed by 2N aqueous sodium hydroxide solution (0.8 ml) and further water (1.6 ml). The mixture was stirred for 20 minutes and the resulting granular precipitate removed by filtration. The solvent was removed from the filtrate under reduced pressure to give a solid which was dissolved in dichloromethane, dried over anhydrous sodium sulphate and the solvent again removed under reduced pressure to yield 4-(2-naphthyl)-4-(2-hydroxyethyl)-N-benzylpiperidine (2.2 g) as a white solid.

reactant | Ethyl 2-(1-benzyl-4-(2-naphthyl)piperidin-4-yl)ethanoate | 5.8 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC2=CC=CC=C2C=C1)CC(=O)OCC | C26H29NO2
reactant | lithium aluminium hydride | 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.8 ml | O | H2O
reactant | sodium hydroxide | 2N, 0.8 ml | [OH-].[Na+]
reactant | water | 1.6 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-naphthyl)-4-(2-hydroxyethyl)-N-benzylpiperidine | 2.2 g | C1=C(C=CC2=CC=CC=C12)C1(CCN(CC1)CC1=CC=CC=C1)CCO | C24H27NO
